US08492582B2
Tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate (0.26 g), triphenylphosphine (0.35 g), and diisopropyl azodicarboxylate (0.26 mL) were added to a tetrahydrofuran (5.0 mL) solution of methyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate (0.50 g), followed by stirring at room temperature for 30 minutes. Triphenylphosphine (0.35 g) and diisopropyl azodicarboxylate (0.26 mL) were added to the reaction mixture, followed by stirring at room temperature for 30 minutes. Triphenylphosphine (0.35 g) and diisopropyl azodicarboxylate (0.26 mL) were added to the reaction mixture, followed by stirring at room temperature for 30 minutes. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 95-70% hexane/ethyl acetate] to obtain methyl 2-(2-(benzyloxy)-5-((1-(tert-butoxycarbonyl)piperidin-4-yl)methoxy)benzamido)-4-phenylbenzoate as a yellow oily substance.

reactant | Tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate | 0.26 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | triphenylphosphine | 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.26 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate | 0.50 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)O | C28H23NO5
reactant | Triphenylphosphine | 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.26 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Triphenylphosphine | 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.26 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | methyl 2-(2-(benzyloxy)-5-((1-(tert-butoxycarbonyl)piperidin-4-yl)methoxy)benzamido)-4-phenylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C | C39H42N2O7
